### PR TITLE
feat: Kronecker delta api

### PR DESCRIPTION
**Pull request by gloges**
Introduces a basic api for the Kronecker delta function.
- I've kept to lemmas which adhere to the Einstein summation rules that indices occur at most twice in each term and free indices match across `=` (unless one side is zero). Hence no `δ[i,j] • f i j = δ[i,j] • f i i` lemma.
- Commutators.lean and LaplaceRungeLenzVector.lean required some fixes, which I have done crudely (w/ sorries for some of the more computation-heavy lemmas); I will revisit these soon.

### CODE REVIEW

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 1]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
 /-- The Kronecker delta function, `ite (i = j) 1 0`. -/
-def kroneckerDelta [Ring R] (i j : Fin d) : R := if (i = j) then 1 else 0
+def kroneckerDelta (i j : α) : ℕ := if i = j then 1 else 0
+
+@[inherit_doc]
+notation "δ[" i "," j "]" => kroneckerDelta i j
+
+lemma kroneckerDelta_self (i : α) : δ[i,i] = 1 := if_pos rfl
+
+lemma kroneckerDelta_diff {i j : α} (h : i ≠ j) : δ[i,j] = 0 := if_neg h
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
lemma eq_zero_of_ne {i j : α} (h : i ≠ j) : δ[i,j] = 0 := if_neg h
```
This a more conventional way of writing this

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 2]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
 
 # Kronecker delta
 
-This file defines the Kronecker delta, `δ[i,j] ≔ if (i = j) then 1 else 0`.
+This module defines the Kronecker delta.
 
 -/
-TODO "YVABB" "Build functionality for working with sums involving Kronecker deltas."
 
 namespace KroneckerDelta
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean:22]: Since you're in the `KroneckerDelta` namespace you don't need to put `kroneckerDelta` into lemma names, it's already (implicitly) there.

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 3]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
+variable {α M : Type*} [DecidableEq α]
+
 /-- The Kronecker delta function, `ite (i = j) 1 0`. -/
-def kroneckerDelta [Ring R] (i j : Fin d) : R := if (i = j) then 1 else 0
+def kroneckerDelta (i j : α) : ℕ := if i = j then 1 else 0
+
+@[inherit_doc]
+notation "δ[" i "," j "]" => kroneckerDelta i j
+
+lemma kroneckerDelta_self (i : α) : δ[i,i] = 1 := if_pos rfl
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
@[simp]
lemma eq_one_of_same (i : α) : δ[i,i] = 1 := if_pos rfl
```

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 4]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
+
+lemma kroneckerDelta_diff {i j : α} (h : i ≠ j) : δ[i,j] = 0 := if_neg h
+
+/-!
+### Conditions for nsmul to vanish
+-/
+
+lemma nsmul_of_eq_zero [AddMonoid M] (i j : α) {f : α → α → M} (hf : f i i = 0) :
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
lemma smul_of_eq_zero [AddMonoid M] (i j : α) {f : α → α → M} (hf : f i i = 0) :
```
I think using "nsmul" isn't necessary since the delta function is a natural number it's clear the scalar multiplication is over naturals.

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 5]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
+
+lemma symm (i j : α) : δ[i,j] = δ[j,i] := ite_cond_congr <| Eq.propIntro Eq.symm Eq.symm
+
+lemma nsmul_symm [AddMonoid M] (i j : α) (f : α → α → M) : δ[i,j] • f j i = δ[i,j] • f i j := by
+  rcases eq_or_ne i j with (rfl | hne)
+  · rfl
+  · simp only [kroneckerDelta_diff hne, zero_nsmul]
+
+lemma symmetrize [AddMonoid M] (i j : α) (f : α → α → M) :
+    (2 * δ[i,j]) • f i j = δ[i,j] • (f i j + f j i) := by
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
lemma symmetrize [AddMonoid M] (i j : α) (f : α → α → M) :
    δ[i,j] • (f i j + f j i) = (2 * δ[i,j]) • f i j := by
```
I would say to swap the order here since you generally want the simplified version on the right.

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 6]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
+  rcases eq_or_ne i j with (rfl | hne)
+  · simp [kroneckerDelta_self, one_nsmul, two_nsmul]
+  · simp [kroneckerDelta_diff hne]
+
+lemma symmetrize' [AddCommMonoid M] {K : Type*} [Semifield K] [CharZero K] [Module K M]
+    (i j : α) (f : α → α → M) : δ[i,j] • f i j = δ[i,j] • (2 : K)⁻¹ • (f i j + f j i) := by
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]: Perhaps reverse the equality on this too, but I'm not sure which way you'd want to be using this.

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 7]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
+
+variable [Fintype α] [AddCommMonoid M]
+
+@[simp]
+lemma sum_self : ∑ i : α, δ[i,i] = card α := by
+  simp [kroneckerDelta_self]
+
+@[simp]
+lemma sum_self_nsmul (f : M) : ∑ i : α, δ[i,i] • f = card α • f := by
+  simp [kroneckerDelta_self, one_nsmul]
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]: I would remove these, they're really just using the fact that `δ[i,i] = 1` and then applying a lemma about sums.

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 8]
```diff
@@ -3,31 +3,121 @@ Copyright (c) 2026 Gregory J. Loges. All rights reserved.
...
+  · exact smul_eq_zero_of_left (kroneckerDelta_diff hne) _
+
+/-!
+### Sums
+-/
+
+section Sums
+open Finset Fintype
+
+variable [Fintype α] [AddCommMonoid M]
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]: Having versions for summing over a `Fintype` is good, but I would also include versions for summing over finite sums in (possibly) infinite types.

**Review by morrison-daniel — COMMENTED** [review]
Just a few style points for now, I'll take a deeper look soon.

File: PhysLean/Mathematics/KroneckerDelta.lean (hunk 7 above)
Comment (gloges) [reply PhysLean/Mathematics/KroneckerDelta.lean]: Removed!

**Comment by gloges** [comment]
I've cleaned up the lemma names and added (double) sums over finite subsets. After the merge, needed to add `@[expose] public section` to fix some errors.

**Comment by zhikaip** [comment]
You could remove the `awaiting author` and `merge-conflict` tags to let the reviewers know when the PR is ready

**Comment by gloges** [comment]
I cannot edit github labels as I am not a collaborator.

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 9]
```diff
@@ -5,33 +5,159 @@ Authors: Gregory J. Loges
...
+  · repeat rw [eq_one_of_same]
+  · rw [eq_zero_of_ne hne, eq_zero_of_ne <| Subtype.coe_ne_coe.mpr hne]
+
+lemma eq_zero_of_not {p : α → Prop} {i j : α} (hi : ¬p i) (hj : p j) : δ[i,j] = 0 := by
+  dsimp [kroneckerDelta]
+  rw [ite_cond_eq_false]
+  apply eq_false'
+  intro h
+  rw [h] at hi
+  exact hi hj
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
lemma eq_zero_of_not {p : α → Prop} {i j : α} (hi : ¬p i) (hj : p j) : δ[i,j] = 0 :=
  eq_zero_of_ne (fun h ↦ hi (h ▸ hj))
```
Just making this shorter but it's the same proof

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 10]
```diff
@@ -5,33 +5,159 @@ Authors: Gregory J. Loges
...
+  rcases eq_or_ne i j with (rfl | hne)
+  · simp [one_nsmul]
+  · simp [eq_zero_of_ne, hne]
+
+lemma smul_eq_zero_iff' [AddMonoid M] (i : α) (f : α → α → M) :
+    (∀ j : α, δ[i,j] • f i j = 0) ↔ f i i = 0 := by
+  refine ⟨?_, fun hf j ↦ smul_of_eq_zero i j hf⟩
+  intro h
+  have hδf : δ[i,i] • f i i = 0 := h i
+  rwa [eq_one_of_same, one_nsmul] at hδf
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
  refine ⟨fun h ↦?_, fun hf j ↦ smul_of_eq_zero i j hf⟩
  simpa [one_nsmul] using h i
```
Another golf

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 11]
```diff
@@ -5,33 +5,159 @@ Authors: Gregory J. Loges
...
+lemma finset_sum_sum_smul (s s' : Finset α) (f : α → α → M) :
+    ∑ i ∈ s, ∑ j ∈ s', δ[(i : α),j] • f i j = ∑ i ∈ s ∩ s', f i i := by
+  simp only [finset_sum_smul, Finset.sum_ite_mem]
 
-@[inherit_doc kroneckerDelta]
-macro "δ[" i:term "," j:term "]" : term => `(kroneckerDelta $i $j)
+lemma finset_sum_sum_smul_of_disjoint {s s' : Finset α} (h : Disjoint s s') (f : α → α → M) :
+    ∑ i ∈ s, ∑ j ∈ s', δ[i,j] • f i j = 0 := by
+  simp only [finset_sum_sum_smul]
+  rw [disjoint_iff_inter_eq_empty.mp h, sum_empty]
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]: I would remove these two lemmas since they are the previous lemma plus a lemma about sums.

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 12]
```diff
@@ -5,33 +5,159 @@ Authors: Gregory J. Loges
...
+
+@[simp]
+lemma sum_mul [Fintype α] (i j : α) : ∑ k : α, δ[i,k] * δ[k,j] = δ[i,j] := by
+  dsimp [kroneckerDelta]
+  simp
+
+@[simp]
+lemma sum_smul [Fintype α] (i : α) (f : α → M) : ∑ j : α, δ[i,j] • f j = f i := by
+  dsimp [kroneckerDelta]
+  simp [one_nsmul]
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
  simp [kroneckerDelta, one_nsmul]
```

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 13]
```diff
@@ -5,33 +5,159 @@ Authors: Gregory J. Loges
...
+
+section Sums
+open Finset
+
+variable [AddCommMonoid M]
+
+@[simp]
+lemma sum_mul [Fintype α] (i j : α) : ∑ k : α, δ[i,k] * δ[k,j] = δ[i,j] := by
+  dsimp [kroneckerDelta]
+  simp
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
  simp [kroneckerDelta]
```

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 14]
```diff
@@ -5,33 +5,159 @@ Authors: Gregory J. Loges
...
+
+@[simp]
+lemma sum_smul [Fintype α] (i : α) (f : α → M) : ∑ j : α, δ[i,j] • f j = f i := by
+  dsimp [kroneckerDelta]
+  simp [one_nsmul]
+
+lemma sum_sum_smul_eq_zero [Fintype α] {f : α → α → M} (hf : ∀ i : α, f i i = 0) :
+    ∑ i : α, ∑ j : α, δ[i,j] • f i j = 0 := by
+  simp only [sum_smul, hf, sum_const_zero]
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
  simp [sum_smul, hf, sum_const_zero]
```

File: PhysLean/Mathematics/KroneckerDelta.lean [hunk 15]
```diff
@@ -5,33 +5,159 @@ Authors: Gregory J. Loges
...
+    rw [← sum_coe_sort]
+    trans ∑ j : s, δ[⟨i, h⟩,j] • f j
+    · simp only [← eq_of_coe]
+    exact sum_smul _ _
+  · simp only [h, ↓reduceIte]
+    rw [← sum_coe_sort]
+    conv_lhs =>
+      enter [2, j]
+      rw [eq_zero_of_not h j.2, zero_smul]
+    exact sum_const_zero
```
Comment (morrison-daniel) [inline PhysLean/Mathematics/KroneckerDelta.lean]:
```suggestion
  simp [kroneckerDelta, one_nsmul]
```

**Review by morrison-daniel — DISMISSED** [review]
Just some simplifications but otherwise looks ready to go!

**Comment by gloges** [comment]
Thanks, I've made the suggested changes.

**Review by morrison-daniel — APPROVED** [review]
Looks good
